US06380218B1
6-Nitro-3H-benzooxazol-2-one
A solution of 3H-Benzooxazol-2-one (10.0 g) in concentrated HNO3 (100 ml) was stirred at 40° C. A precipitate formed and the reaction temperature rose. It was cooled below 50 ° C. in an ice bath. The mixture was diluted with ice water, and the precipitate was isolated by filtration. The product was washed with water to give a white solid. (8.4 g). M.P. 239-241.

reactant | 3H-Benzooxazol-2-one | 10.0 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | HNO3 | 100 ml | [N+](=O)(O)[O-] | HNO3
product | 6-Nitro-3H-benzooxazol-2-one | [N+](=O)([O-])C1=CC2=C(NC(O2)=O)C=C1 | C7H4N2O4
